US07595312B2
13c (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-propan-1-one
1.35 g (4.20 mmol) TBTU, 0.70 mL (5.0 mmol) triethylamine and 0.75 g (4.01 mmol) 1-methyl-4-piperidin-4-yl-piperazine were added to a solution of 1.5 g (4.01 mmol) (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-propionic acid in 50 mL THF and the reaction mixture was stirred overnight at RT. The reaction solution was evaporated down i.vac., the residue was combined with 200 mL EtOAc and 200 mL saturated NaHCO3 solution, the organic phase was separated off and extracted with 100 mL of 5% citric acid solution. The citric acid extract was made alkaline with K2CO3 and extracted twice with 100 mL EtOAc in each case. The combined organic phases were evaporated down i.vac. and the residue further reacted without purification.

reactant | TBTU | 4.20 mmol, 1.35 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 4.01 mmol, 0.75 g | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-propionic acid | 4.01 mmol, 1.5 g | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)O)OCC1=CC=CC=C1)Cl | C17H15ClF3NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-benzyloxy-1-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-propan-1-one | NC1=C(C=C(C=C1C(F)(F)F)C[C@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)OCC1=CC=CC=C1)Cl | C27H34ClF3N4O2
